*$
*PART NUMBER: NJU7098
*MANUFACTURER: NEW JAPAN RADIO
*CMOS OPAMP
*All Rights Reserved Copyright (C) Bee Technologies Corporation 2009
*Remark: VDD=5.0V
.SUBCKT NJU7098 IN+ IN- VDD VSS OUT SHDN
M_M1         3 IN- 2 VDD1 MbreakPD3   L=6u W=19.89894m
M_M2         4 IN+ 2 VDD1 MbreakPD2   L=6u W=10.10106m
M_M3         2 1 VDD1 VDD1 MbreakPD
M_M4         5 1 VDD1 VDD1 MbreakPD
M_M5         6 1 VDD1 VDD1 MbreakPD 
M_M6         1 1 VDD1 VDD1 MbreakPD
M_M7         5 5 VSS VSS MbreakND
M_M8         5 4 VSS VSS MbreakND
M_M9         3 3 8 VSS MbreakND1      L=6u W=12m
M_M10        4 3 9 VSS MbreakND1      L=6u W=5m 
M_M11        1 6 10 10 MbreakND
M_M12        6 6 VSS VSS MbreakND
M_M13        7 5 VSS VSS MbreakND1
M_M14        7 7 VDD1 VDD1 MbreakPD 
M_M15        OUT 7 12 12 MbreakPD1    L=6u W=203m 
M_M16        11 4 VSS VSS MbreakND2   L=6u W=55.5m
R_R1         10 VSS  315  
R_R2         8 VSS  2k
R_R3         9 VSS  3.99k
R_R4         IN+ VSS  10E12
R_R5         IN- VSS  25E9 
R_R6         2 N675617  7k
R_R7         VDD VSS  333.333k
R_R8         N675675 SHDNTH  100
C_C1         OUT 4  7p
C_C2         IN- N675617  17p
C_C3         SHDNTH 0  100p
V_V1         OUT 11 0.00091
V_V2         VDD1 12 0.026
E_E1         VDD1 VSS VALUE {
+ IF(V(SHDN,VSS)>V(SHDNTH),V(VDD,VSS),0.01) }
E_E2         N675675 0 VALUE { IF(V(VDD1,VSS)>1,0.5,2.5) }
G_G1         VDD VSS VALUE { IF(V(SHDN,VSS)>V(SHDNTH),0.585m,0) }
.model MbreakND NMOS ( LEVEL=3 L=6u W=3.2m VTO=0 RS=10.000E-3 
+ RD=10.000E-3 RDS=1.000E6 TOX=2.0E-6 RG=5 RB=1.0000E-3
+ KP=10E-6)
.model MbreakND1 NMOS (LEVEL=3 L=6u W=500m VTO=0 RS=10.000E-3
+ RD=10.000E-3 RDS=10.000E6 TOX=2.0000E-6 RG=5 RB=1.0000E-3 
+ KP=10E-6)
.model MbreakND2 NMOS ( LEVEL=3 VTO=0 RS=10.000E-3 RD=10.000E-3 
+ RDS=1.0000E6 TOX=2.0000E-6 CBD=24E-10 RG=5 RB=1.0000E-3 
+ KP=10E-6)
.model MbreakPD PMOS ( LEVEL=3 L=6u W=19.5m VTO=0 RS=10.000E-3		
+ RD=10.00E-3 RDS=1.00E6 TOX=2.0000E-6 RG=5 RB=1.0000E-3  
+ KP=1E-6 )
.MODEL MbreakPD1 PMOS (LEVEL=3 VTO=0 RS=10.000E-3 RD=10.000E-3 
+ RDS=1.00E6 TOX=2.0000E-6 RG=5 RB=1.0000E-3 KP=1E-6 )
.MODEL MbreakPD2 PMOS (LEVEL=3 VTO=0 RS=10.000E-3 RD=10.00E-3 
+ RDS=150E6 TOX=2.0000E-6 RG=5 RB=1.000E-3 KP=1E-6)
.MODEL MbreakPD3 PMOS (LEVEL=3 VTO=0 RS=10.000E-3 RD=10.00E-3 
+ RDS=1.148E6 TOX=2.000E-6 RG=5 RB=1.000E-3 KP=1E-6 )
.ENDS NJU7098 
*$
